* Configurable inverting Schmitt trigger
.include ../../lib/claw_opamps.lib
VIN in 0 PWL(0 -2 2m 2 4m -2 6m 2 8m -2)
VCC vcc 0 5
VEE vee 0 -5
XU1 trip in vcc vee out CLAW_IDEAL_OPAMP
RHYS out trip {RHYS}
RREF trip 0 {RREF}
RL out 0 10k
.param RHYS=100k
.param RREF=20k
.param VTRIP=4.8*RREF/(RHYS+RREF)
.tran 0 8m 0 2u
.meas TRAN upper_trip FIND V(in) WHEN V(out)=0 FALL=1
.meas TRAN lower_trip FIND V(in) WHEN V(out)=0 RISE=1
.meas TRAN hysteresis_width PARAM upper_trip-lower_trip
.meas TRAN expected_trip PARAM VTRIP
.meas TRAN expected_hysteresis PARAM 2*VTRIP
.meas TRAN vout_max MAX V(out) FROM=1m TO=8m
.meas TRAN vout_min MIN V(out) FROM=1m TO=8m
.end
